US06174922B1
N-[2-[4-oxocyclohexyl]ethyl] 2-propanesulfonamide
N-[2-[4-[[(trifluoromethyl)sulfonyl]oxy]-3-cyclohexen-1-yl]propyl] 2-propanesulfonamide: To a −78° C. solution of 1.0 g (3.82 mmol) of the material prepared in Preparation 2 in 6 ml of THF was added 8.4 ml of a 1 M solution of lithium bis(trimethylsilyl)amide in THF (8.4 mmol). The bath was removed and the mixture was stirred for 30 min and then 1.46 g (4.09 mmol) of N-phenyltrifluoromethane sulfonimide was added at ambient temperature. The mixture was stirred for 24 h. The reaction was quenched with NH4Cl saturated solution and extracted three times with ethyl acetate. The organic phase was dried over Na2SO4, filtered and concentrated in vacuo. Chromatography (125 g of silica gel, 15% ethyl acetate/hexane) of the residue afforded 395 mg (26%) of the title compound.

reactant | N-[2-[4-[[(trifluoromethyl)sulfonyl]oxy]-3-cyclohexen-1-yl]propyl] 2-propanesulfonamide | FC(S(=O)(=O)OC1=CCC(CC1)C(CNS(=O)(=O)C(C)C)C)(F)F | C13H22F3NO5S2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-phenyltrifluoromethane sulfonimide | 4.09 mmol, 1.46 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 8.4 mmol | C1CCOC1 | C4H8O
product | N-[2-[4-oxocyclohexyl]ethyl] 2-propanesulfonamide | 395 mg, 26% | O=C1CCC(CC1)CCNS(=O)(=O)C(C)C | C11H21NO3S
